US05304555
2-Methylthio-5,6-dihydro-7-methyl-6-oxo(7H)-pyrrolo[2,3-d]pyrimidine (compound No. 134)
Phosphorus oxychloride (59.0 g) was added to 4.84 g (21.2 mmoles) of ethyl 2-methylthio-4-hydroxy-pyrimidine-5-acetate, and the mixture was heated under reflux for 3 hours. The reaction mixture was concentrated under reduced pressure, and after adding chloroform, neutralized with an aqueous solution of sodium hydrogen carbonate. The chloroform layer was concentrated under reduced pressure. To the concentrate were added 20 ml of ethanol and 3.48 g (44.9 mmoles) of a 40 methanol solution of methylamine, and the mixture was reacted at 100 ° C. for 5 hours in an autoclave. The solvent was evaporated under reduced pressure, and after adding water, the mixture was extracted with chloroform. The chloroform layer was concentrated under reduced pressure, treated with activated carbon in ethanol, and recrystallized to give 1.50 g (yield 36%) of the desired compound.

reactant | Phosphorus oxychloride | 59.0 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ethyl 2-methylthio-4-hydroxy-pyrimidine-5-acetate | 21.2 mmoles, 4.84 g | CSC1=NC=C(C(=N1)O)CC(=O)OCC | C9H12N2O3S
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | methylamine | CN | CH5N
solvent | methanol | CO | CH4O
product | 2-Methylthio-5,6-dihydro-7-methyl-6-oxo(7H)-pyrrolo[2,3-d]pyrimidine | 1.50 g, yield 36% | CSC=1N=CC2=C(N1)N(C(C2)=O)C | C8H9N3OS
